US08314138B2
A solution of 3-iodo-5-methyl-1H-pyrazole (1.45 g, 6.97 mmol) in dimethyl sulfoxide (10 mL) was treated with 1-(2-bromo-ethyl)-4-fluoro-benzene (1.41 g, 6.97 mmol) and potassium carbonate (2.89 g, 20.91 mmol), and the reaction mixture was heated to 95° C. for 16 hr. The reaction mixture was cooled to room temperature, diluted with ethyl acetate (100 mL), and washed with brine (2×100 mL). The organic phase was dried (Na2SO4) and evaporated. The residue was purified by preparative thin layer chromatography over silica gel (hexanes:ethyl acetate, 1:1) to provide 1-[2-(4-fluoro-phenyl)-ethyl]-3-iodo-5-methyl-1H-pyrazole as a yellow oil. MS (M+H)+=331.

reactant | 3-iodo-5-methyl-1H-pyrazole | 6.97 mmol, 1.45 g | IC1=NNC(=C1)C | C4H5IN2
reactant | 1-(2-bromo-ethyl)-4-fluoro-benzene | 6.97 mmol, 1.41 g | BrCCC1=CC=C(C=C1)F | C8H8BrF
reactant | potassium carbonate | 20.91 mmol, 2.89 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethyl sulfoxide | 10 mL | CS(=O)C | C2H6OS
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | 1-[2-(4-fluoro-phenyl)-ethyl]-3-iodo-5-methyl-1H-pyrazole | FC1=CC=C(C=C1)CCN1N=C(C=C1C)I | C12H12FIN2
